.title Test Park Transform
.include park_transform.lib
.include ../../voltage_source/voltage_source_3ph.lib

.param freq = 50
.param pi2 = 6.283185307179586

* Source
Xabc    va      vb      vc      gnd     VSOURCE3PH  fg=freq rg=1m

* Load
Ra      va      vla      11
Rb      vb      vlb      11
Rc      vc      vlc      11

La      vla     vaAmp   20m
Lb      vlb     vbAmp   20m
Lc      vlc     vcAmp   20m

* Current measurement
Vampa   vaAmp   gnd      dc(0)
Vampb   vbAmp   gnd      dc(0)
Vampc   vcAmp   gnd      dc(0)

Bia     ia      gnd     v = i(Vampa)
Bib     ib      gnd     v = i(Vampb)
Bic     ic      gnd     v = i(Vampc)

* Park Transform
Btheta  theta   gnd     v = {freq}*{pi2}*time
Xtransf ia ib ic theta id iq i0 PARK



.tran 10u 30m

.control
    run
    plot ia ib ic
    plot id iq i0
    plot norm(va) norm(ia)
.endc